.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-1N6
* Inductance = 1.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-23.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-1N6_freq port1 port2 PARAMS: Cpar=0.042pF Ind=1.3nH
X1 port1 port2 Model2A PARAMS:
+ R1=5
+ R2=0.03
+ C= {Cpar}
+ K1=0.00000291
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5705.675353
.ends 0603HC-1N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-1N6
* Inductance = 1.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-23.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-1N6_imp port1 port2 PARAMS: Cpar=0.042pF Ind=1.3nH
X1 port1 port2 Model1D PARAMS:
+ R1=5
+ R2=0.03
+ C= {Cpar}
+ K1=0.00000291
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5705.675353
.ends 0603HC-1N6_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-3N6
* Inductance = 3.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-3N6_freq port1 port2 PARAMS: Cpar=0.037pF Ind=3.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.048
+ C= {Cpar}
+ K1=0.0000103
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9534.120354
.ends 0603HC-3N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-3N6
* Inductance = 3.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-3N6_imp port1 port2 PARAMS: Cpar=0.037pF Ind=3.6nH
X1 port1 port2 Model1D PARAMS:
+ R1=9
+ R2=0.048
+ C= {Cpar}
+ K1=0.0000103
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9534.120354
.ends 0603HC-3N6_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-3N9
* Inductance = 3.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-3N9_freq port1 port2 PARAMS: Cpar=0.037pF Ind=3.7nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.054
+ C= {Cpar}
+ K1=0.0000097
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9874.507405
.ends 0603HC-3N9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-3N9
* Inductance = 3.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-3N9_imp port1 port2 PARAMS: Cpar=0.037pF Ind=3.7nH
X1 port1 port2 Model1D PARAMS:
+ R1=9
+ R2=0.054
+ C= {Cpar}
+ K1=0.0000097
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9874.507405
.ends 0603HC-3N9_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-6N8
* Inductance = 6.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-6N8_freq port1 port2 PARAMS: Cpar=0.052pF Ind=6.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=4
+ R2=0.054
+ C= {Cpar}
+ K1=0.0000139
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24774.33413
.ends 0603HC-6N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-6N8
* Inductance = 6.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-6N8_imp port1 port2 PARAMS: Cpar=0.052pF Ind=6.8nH
X1 port1 port2 Model1D PARAMS:
+ R1=4
+ R2=0.054
+ C= {Cpar}
+ K1=0.0000139
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24774.33413
.ends 0603HC-6N8_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-7N5
* Inductance = 7.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-7N5_freq port1 port2 PARAMS: Cpar=0.078pF Ind=7.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=4
+ R2=0.059
+ C= {Cpar}
+ K1=0.0000151
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18404.76122
.ends 0603HC-7N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-7N5
* Inductance = 7.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-7N5_imp port1 port2 PARAMS: Cpar=0.078pF Ind=7.5nH
X1 port1 port2 Model1D PARAMS:
+ R1=4
+ R2=0.059
+ C= {Cpar}
+ K1=0.0000151
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18404.76122
.ends 0603HC-7N5_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-10N_freq port1 port2 PARAMS: Cpar=0.045pF Ind=10nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.071
+ C= {Cpar}
+ K1=0.0000205
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18875.76145
.ends 0603HC-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-10N_imp port1 port2 PARAMS: Cpar=0.045pF Ind=10nH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.071
+ C= {Cpar}
+ K1=0.0000205
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18875.76145
.ends 0603HC-10N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-12N_freq port1 port2 PARAMS: Cpar=0.079pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.075
+ C= {Cpar}
+ K1=0.0000248
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12895.76145
.ends 0603HC-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-12N_imp port1 port2 PARAMS: Cpar=0.079pF Ind=12nH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.075
+ C= {Cpar}
+ K1=0.0000248
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12895.76145
.ends 0603HC-12N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-15N_freq port1 port2 PARAMS: Cpar=0.062pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.08
+ C= {Cpar}
+ K1=0.0000312
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18258.67809
.ends 0603HC-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-15N_imp port1 port2 PARAMS: Cpar=0.062pF Ind=15nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.08
+ C= {Cpar}
+ K1=0.0000312
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18258.67809
.ends 0603HC-15N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-18N_freq port1 port2 PARAMS: Cpar=0.085pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=15
+ R2=0.099
+ C= {Cpar}
+ K1=0.0000332
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12377.85776
.ends 0603HC-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-18N_imp port1 port2 PARAMS: Cpar=0.085pF Ind=18nH
X1 port1 port2 Model1D PARAMS:
+ R1=15
+ R2=0.099
+ C= {Cpar}
+ K1=0.0000332
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12377.85776
.ends 0603HC-18N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-22N_freq port1 port2 PARAMS: Cpar=0.062pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=15
+ R2=0.099
+ C= {Cpar}
+ K1=0.0000384
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20259.13077
.ends 0603HC-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-22N_imp port1 port2 PARAMS: Cpar=0.062pF Ind=22nH
X1 port1 port2 Model1D PARAMS:
+ R1=15
+ R2=0.099
+ C= {Cpar}
+ K1=0.0000384
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20259.13077
.ends 0603HC-22N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-24N
* Inductance = 24nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HC-24N_freq port1 port2 PARAMS: Cpar=0.095pF Ind=24nH
X1 port1 port2 Model2A PARAMS:
+ R1=15
+ R2=0.105
+ C= {Cpar}
+ K1=0.000045
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14362.38764
.ends 0603HC-24N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HC-24N
* Inductance = 24nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HC-24N_imp port1 port2 PARAMS: Cpar=0.095pF Ind=24nH
X1 port1 port2 Model1D PARAMS:
+ R1=15
+ R2=0.105
+ C= {Cpar}
+ K1=0.000045
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14362.38764
.ends 0603HC-24N_imp

